US09301951B2
6-((4-Acetylpiperazin-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)picolinamide
Into a 8-mL sealed tube, was placed a solution of 6-(chloromethyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide (120 mg, 0.20 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), 1-(piperazin-1-yl)ethanone (37.9 mg, 0.30 mmol, 1.50 equiv), potassium carbonate (82 mg, 0.59 mmol, 3.00 equiv), and potassium iodide (7 mg, 0.04 mmol, 0.20 equiv). The resulting solution was stirred for 3 h at 65° C. The reaction was then quenched with 10 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×30 mL of brine, dried over sodium sulfate, and concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 89.2 mg (56%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.56 (s, 1H), 9.54 (t, J=6.0 Hz, 1H), 9.08 (d, J=5.1 Hz, 1H), 8.38 (d, J=8.7 Hz, 1H), 8.25-8.17 (m, 3H), 7.84 (d, J=3.9 Hz, 2H), 7.71-7.58 (m, 5H), 7.51 (s, 1H), 4.63 (d, J=5.7 Hz, 2H), 4.49 (s, 2H), 3.31-3.21 (m, 10H), 2.01 (s, 3H), 1.72-1.59 (m, 6H). MS (ES, m/z): 700 [M+H]+.

reactant | 6-(chloromethyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide | 0.20 mmol, 120 mg, 1.00 equiv | ClCC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C32H29ClF3N5O2
reactant | 1-(piperazin-1-yl)ethanone | 0.30 mmol, 37.9 mg, 1.50 equiv | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | potassium carbonate | 0.59 mmol, 82 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.04 mmol, 7 mg, 0.20 equiv | [I-].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-((4-Acetylpiperazin-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)picolinamide | 89.2 mg, 56% | C(C)(=O)N1CCN(CC1)CC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C38H40F3N7O3
